US04562187
[3-(2,4-Dichlorobenzoyl)isoxazol-5-yl]acetic acid
To a mixture of 12.8 g of 2-[3-(2,4-dichlorobenzoyl)-isoxazol-5-yl]ethanol and a few crystals of tetra-n-butylammonium hydrogen sulfate in 1000 ml of CH2Cl2 was added 150 ml of 9M H2SO4. To this was added 13.2 g of pulverized K2Cr2O7 and the mixture was stirred at room temperature for 1 hour. The organic phase was separated from the aqueous phase and washed with water. The acid product was extracted from the organic phase using 40 ml of 4% NaHCO3. The alkaline solution was washed with CH2Cl2 several times, until all the neutral impurities were removed, and the solution was then acidified slowly with 5% HCl until all the acid precipitated. The solid was filtered, washed with water, and dried to yield 3.9 g of a powder. Recrystallization from 100 ml of 50% toluene/hexane gave 3.5 g (26%) of crystals, m.p. 108°-109° .

reactant | 2-[3-(2,4-dichlorobenzoyl)-isoxazol-5-yl]ethanol | 12.8 g | ClC1=C(C(=O)C2=NOC(=C2)CCO)C=CC(=C1)Cl | C12H9Cl2NO3
reactant | H2SO4 | 9M, 150 ml | OS(=O)(=O)O | H2O4S
catalyst | tetra-n-butylammonium hydrogen sulfate | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 1000 ml | C(Cl)Cl | CH2Cl2
product | [3-(2,4-Dichlorobenzoyl)isoxazol-5-yl]acetic acid | 3.9 g | ClC1=C(C(=O)C2=NOC(=C2)CC(=O)O)C=CC(=C1)Cl | C12H7Cl2NO4
